US08026257B2
4-(1-Cyclopropyl-7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile.
tert-Butyl 4-(((5-(4-cyanophenyl)-1-cyclopropyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (23 mg, 0.04 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 2 mL) and stirred at room temperature for 1 h. The reaction was concentrated, loaded onto a strong cation exchange cartridge in methanol, and flushed with several volumes of methanol which were discarded. The crude secondary amine was eluted in 2 M ammonia in methanol and concentrated. The resulting residue was dissolved in acetonitrile (2 mL), cooled to 0° C., and treated with sodium cyanoborohydride (12.8 mg, 0.2 mmol) and formalin (152 μL). After 5 min, the reaction was treated with a few drops of acetic acid. The ice bath was removed and stirring continued for 1 h. The reaction was concentrated and purified by flash chromatography on silica gel (10% methanolic ammonia/methylene chloride) to afford 23 mg (95%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.81 (d, J=1.5 Hz, 1H), 7.71-7.73 (m, 2H), 7.65-7.67 (m, 2H), 7.40 (m, 1H), 7.24-7.30 (m, 4H), 7.16-7.19 (m, 1H), 4.93 (s, 2H), 3.49-3.52 (m, 1H), 3.46 (s, 2H), 2.51-253 (m, 2H), 2.16 (s, 3H), 2.12-2.22 (m, 4H), 1.91-1.96 (m, 2H), 1.21-1.24 (m, 2H), 0.88-0.92 (m, 2H), 13C-NMR (CDCl3, 126 MHz) δ 171.1, 161.7 (d, J=246.6 Hz), 145.8 139.1, 133.0, 132.7, 131.9, 128.3, 127.8, 127.3, 127.1, 126.5, 126.1, 122.3, 119.6, 119.1, 110.6, 70.9, 52.0, 50.8, 46.3, 40.8, 32.7, 32.1, 8.2. Mass spec.: 477.41 (MH)+.

reactant | tert-Butyl 4-(((5-(4-cyanophenyl)-1-cyclopropyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.04 mmol, 23 mg | C(#N)C1=CC=C(C=C1)C=1C=C2C=NN(C2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1CC1 | C35H38N4O3
reactant | sodium cyanoborohydride | 0.2 mmol, 12.8 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 152 μL | C=O | CH2O
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-(1-Cyclopropyl-7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile | C1(CC1)N1N=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C31H32N4O
